US09278950B2
Step 6. tert-Butyl [(3S,5R)-5-methyl-1-(3-nitropyridin-4-yl)piperidin-3-yl]carbamate
A mixture of 4-chloro-3-nitropyridine (0.704 g, 4.44 mmol) and tert-butyl [(3S,5R)-5-methylpiperidin-3-yl]carbamate (1.0 g, 4.7 mmol) in isopropyl alcohol (8.7 mL) was stirred at 75° C. overnight. The mixture was concentrated under reduced pressure, and the resulting residue was diluted with water and extracted with EtOAc. The organic extracts were combined and evaporated under reduced pressure. The residue was purified by flash chromatography on 40 g silica gel, eluting with 0-90% EtOAc in hexanes, to give the sub-title compound as a yellow solid (1.14 g, 76.2%). LCMS calc. for C16H25N4O4 (M+H)+: m/z=337.2. found: 337.3.

reactant | 4-chloro-3-nitropyridine | 4.44 mmol, 0.704 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | tert-butyl [(3S,5R)-5-methylpiperidin-3-yl]carbamate | 4.7 mmol, 1.0 g | C[C@@H]1C[C@@H](CNC1)NC(OC(C)(C)C)=O | C11H22N2O2
solvent | isopropyl alcohol | 8.7 mL | C(C)(C)O | C3H8O
product | tert-Butyl [(3S,5R)-5-methyl-1-(3-nitropyridin-4-yl)piperidin-3-yl]carbamate | 1.14 g, 76.2% | C[C@@H]1C[C@@H](CN(C1)C1=C(C=NC=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C16H24N4O4
